US20010014691A1
Benzyl (3-(3-pyridyloxy)propyl)amine
The 3-chloro-1-(3-pyridyloxy)propane (0.65 g, 3.78 mmol) was dissolved in methanol (20 mL) and added to a mixture of benzylamine (13.5 mL) in water (20 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 120° C. (oil bath temperature) for 3 h. After cooling, the mixture was concentrated by rotary evaporation, and saturated NaCl solution (25 mL) was added to the residue. The mixture was acidified to pH 1 with 10% HCl solution and extracted with CHCl3 (2×35 mL) to remove impurities. The aqueous phase was basified to pH 10 with 10% NaOH solution, and the mixture was extracted with chloroform (4×50 mL). The combined chloroform extracts were dried (MgSO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give a brown oil. The oil was concentrated by vacuum distillation to remove excess benzylamine (bp 85° C. at 15 mm Hg). The remaining residue (0.483 g) was purified by column chromatography on silica gel (25 g) eluting with CH3OH—NH4OH (50:1, v/v). Fractions containing the product (Rf 0.39) were combined and concentrated on a rotary evaporator. The residue was re-chromatographed on silica gel (10 g). Fractions containing the product were combined and concentrated on a rotary evaporator. The residue was dissolved in CHCL3 and the CHCL3 solution was dried (MgSO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 20 mg (2.2%) of a light-brown oil. The compound exhibits a Ki of 3000 nM. The compound exhibits neurotransmitter release of 29 percent.

reactant | 3-chloro-1-(3-pyridyloxy)propane | 3.78 mmol, 0.65 g | ClCCCOC=1C=NC=CC1 | C8H10ClNO
reactant | benzylamine | 13.5 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | Benzyl (3-(3-pyridyloxy)propyl)amine | 20 mg, 2.2% | C(C1=CC=CC=C1)NCCCOC=1C=NC=CC1 | C15H18N2O
